US06821980B1
4-(2,4-Diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxymethoxy-biphenyl-2-ol (2.5 g; 6.31 mmol) is dissolved in dimethylformamide (125 ml; dried over a molecular sieve) and potassium tert-butylate (920 mg; 8.2 mmol) is added at room temperature. A solution of [(1-bromomethyl-cyclopropyl)methoxymethyl]-benzene (2.253 g; 8.83 mmol) in dimethylformamide (3 ml) is then added and the mixture is stirred for 100 minutes at a bath temperature of 60° C. The reaction mixture is concentrated, diluted with water (100 ml) and extracted with methylene chloride (120 ml) and re-extracted (50 ml). The combined organic phases are concentrated and the residue is chromatographed over silica gel (300 g) with methylene chloride/methanol/NH4OH conc. (19/1/0.05). The combined pure fractions are concentrated and the residue is dissolved in acetic acid conc. (40 ml) and ethanol (10 ml) and hydrogenated over Pd/C 10% (900 mg). The reaction mixture is filtered with suction and the filtrate is concentrated. The residue is stirred with water (50 ml) and the pH is adjusted to approx. 10 by addition of NH4OH conc. The product which has precipitated out is filtered off with suction and the residue is washed with a little water and dried under a high vacuum. 2.24 g (95%) {1-[4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxymethoxy-biphenyl-2-yloxymethyl]-cyclopropyl}-methanol are obtained as a colourless powder.

reactant | 4-(2,4-Diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxymethoxy-biphenyl-2-ol | 6.31 mmol, 2.5 g | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OCC)C1=CC=C(C=C1)OCOC)O | C21H24N4O4
reactant | potassium tert-butylate | 8.2 mmol, 920 mg | CC(C)(C)[O-].[K+]
reactant | [(1-bromomethyl-cyclopropyl)methoxymethyl]-benzene | 8.83 mmol, 2.253 g | BrCC1(CC1)COCC1=CC=CC=C1 | C12H15BrO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | {1-[4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxymethoxy-biphenyl-2-yloxymethyl]-cyclopropyl}-methanol | 2.24 g, 95% | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OCC)C1=CC=C(C=C1)OCOC)OCC1(CC1)CO | C26H32N4O5
